US07169777B2
1,2,3,4-Tetrahydro-isoquinoline-3-carboxylic acid (1-(4-chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-isobutyrylamino-ethyl]-piperazin-1-yl}-2-oxo-ethyl)-amide hydrochloride
3-(1-(4-Chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-isobutyrylamino-ethyl]-piperazin-1-yl}-2-oxo-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester: To a mixture of 0.26 g (0.56 mmol) of product from Preparation SM3, 0.15 g (0.51 mmol) of material from part B and 0.21 g (0.56 mmol) of O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate in 2 ml of dichlorormethane is added 0.10 mL (0.56 mmol) of N,N-diisopropylethylamine. The mixture is stirred for 16 hr and washed with 10% aqueous sodium bisulfate. After the organic portion is separated, the aqueous portion is saturated with sodium chloride and extracted three times with dichloromethane. The combined organics are dried (Na2SO4), filtered and concentrated in vacuo. Chromatography (Biotage, 5% ethanol, ethyl acetate) affords 0.17 g (42%) of the title compound.

reactant | 3-(1-(4-Chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-isobutyrylamino-ethyl]-piperazin-1-yl}-2-oxo-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(NC(C(=O)N1CCN(CC1)C(CNC(C(C)C)=O)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)Cl)=O | C40H49ClFN5O5
reactant | O-(7-azabenzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.56 mmol, 0.21 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.56 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 1,2,3,4-Tetrahydro-isoquinoline-3-carboxylic acid (1-(4-chloro-benzyl)-2-{4-[1-(2-fluoro-phenyl)-2-isobutyrylamino-ethyl]-piperazin-1-yl}-2-oxo-ethyl)-amide hydrochloride | 0.17 g, 42% | Cl.ClC1=CC=C(CC(C(=O)N2CCN(CC2)C(CNC(C(C)C)=O)C2=C(C=CC=C2)F)NC(=O)C2NCC3=CC=CC=C3C2)C=C1 | InChI=1S/C35H41ClFN5O3.ClH/c1-23(2)33(43)39-22-32(28-9-5-6-10-29(28)37)41-15-17-42(18-16-41)35(45)31(19-24-11-13-27(36)14-12-24)40-34(44)30-20-25-7-3-4-8-26(25)21-38-30;/h3-14,23,30-32,38H,15-22H2,1-2H3,(H,39,43)(H,40,44);1H
